US07521455B2
(3) Manufacture of 3-{4-[(1-cyclobutyl-4-piperidinyl)oxy]phenyl}-2-methyl-4(3H)-quinazolinone
2-methyl-3-{4-(4-piperidinyloxy-)phenyl}-4(3H)-quinazolinone (370 mg, 1.10 mmol) and cyclobutanone (155 mg, 2.20 mmol) were dissolved in a 0.5M methanol solution (6 mL) of zinc(II) chloride and sodium cyanoborohydride, and stirred at room temperature for 1 Hour. The solvent was distilled off under reduced pressure, ethyl acetate and distilled water were added, the mixture was extracted with ethyl acetate, and the organic phase washed with distilled water. After drying with anhydrous sodium sulfate, the product was purified by silica gel column chromatography (chloroform/methanol=30/1), and the title compound (165 mg, 39%) was obtained as a colorless solid.

reactant | 2-methyl-3-{4-(4-piperidinyloxy-)phenyl}-4(3H)-quinazolinone | 1.10 mmol, 370 mg | CC1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)OC1CCNCC1)=O | C20H21N3O2
reactant | cyclobutanone | 2.20 mmol, 155 mg | C1(CCC1)=O | C4H6O
solvent | methanol | 0.5M, 6 mL | CO | CH4O
solvent | zinc(II) chloride | [Cl-].[Zn+2].[Cl-]
solvent | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 3-{4-[(1-cyclobutyl-4-piperidinyl)oxy]phenyl}-2-methyl-4(3H)-quinazolinone | 165 mg, 39% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)N1C(=NC2=CC=CC=C2C1=O)C | C24H27N3O2
